Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PLASTIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Right upper extremity lymphedema
 
Major Surgical or Invasive Procedure:
OMENTAL LYMPH NODE HARVEST FROM ABDOMEN; TRANSPLANT OMENTAL 
LYMPH NODE TO RIGHT FOREARM 

 
History of Present Illness:
___ year old female w PMH of right breast cancer s/p partial 
mastectomy and radiation and axillary dissection in ___ 
c/b RUE chronic lymphedema.
 
Past Medical History:
BREAST CANCER                                                   
LYMPHEDEMA                                                      
GOITER     
 
Social History:
___
Family History:
Mother   ___ ___  ALZHEIMER'S DISEASE                       

Father   ___ ___  ATHEROSCLEROTIC                           
                      CARDIOVASCULAR                            
                      DISEASE                                   

Sister   Living                                                 

Brother  Living       ATHEROSCLEROTIC                           
                      CARDIOVASCULAR                            
                      DISEASE                 
 
Physical Exam:
Physical exam per post op check note ___ Temp: 98.2 PO BP: 115/75 L Lying HR: 75 RR: 18 O2
sat: 97% O2 delivery: 2L nc 
Gen: AAOx3 NAD comfortable
CV: NRRR
Resp: Breathing comfortably
Abd: Soft, benign
Extrem: RUE is well perfused, with strong dopplerable signal at
incision site; sensation and motor are in tact

 
Brief Hospital Course:
The patient was admitted to the plastic surgery service on 
___ and had an OMENTAL LYMPH NODE HARVEST FROM ABDOMEN; 
TRANSPLANT OMENTAL LYMPH NODE TO RIGHT FOREARM.  The patient 
tolerated the procedure well. The patient was placed in a bulky 
right arm splint with open area for monitoring of pulses.  
Pulses were monitored Q4H.  On POD#1, OT fashioned a custom 
orthoplast splint in full extension.  Patient was maintained in 
this splint for the remainder of her inpatient stay and her RUE 
was elevated at all times.
 .
 Neuro: Post-operatively, the patient received a morphine PCA 
with good effect and adequate pain control. When tolerating oral 
intake, the patient was transitioned to oral pain medications. 
 .
 CV: The patient was stable from a cardiovascular standpoint; 
vital signs were routinely monitored.
 .
 Pulmonary: The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored.
 .
 GI/GU: Post-operatively, the patient was given IV fluids until 
tolerating oral intake.  Her diet was advanced when appropriate, 
after passing flatus, which was tolerated well. She was also 
started on a bowel regimen to encourage bowel movement. Foley 
was removed on POD#2. Intake and output were closely monitored. 
 .
 ID: Post-operatively, the patient was started on IV cefazolin, 
then switched to PO cefadroxil for discharge home. The patient's 
temperature was closely watched for signs of infection. 
 .
 Prophylaxis: The patient received subcutaneous heparin during 
this stay, and was encouraged to get up and ambulate as early as 
possible. 
 .
 At the time of discharge on POD#6, the patient was doing well, 
afebrile with stable vital signs, tolerating a regular diet, 
ambulating, voiding without assistance, and pain was well 
controlled.
 
Medications on Admission:
alendronate 70 mg tablet
1 Tablet(s) by mouth once per week take upon awakening one day 
per week; remain sittnig or standing for 30 min. then resume 
usual day
.
anastrozole 1 mg tablet
1 Tablet(s) by mouth daily 
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Aspirin 121.5 mg PO DAILY 
RX *aspirin 81 mg 1.5 tablet(s) by mouth once a day Disp #*45 
Tablet Refills:*0 
3.  cefaDROXil 500 mg oral BID 
RX *cefadroxil 500 mg 1 capsule(s) by mouth twice a day Disp #*8 
Capsule Refills:*0 
.
___ restart alendronate.
Please hold anastrazole for 2 weeks.
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
chronic right upper extremity lymphedema 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Personal Care: 
-You may keep your incisions open to air or covered with a 
clean, sterile gauze that you change daily. 
-You may shower daily with assistance as needed. You should 
cover your right arm with a plastic bag when showering. Your 
abdominal suture line can get wet.  Pat dry after shower.
.
Activity: 
-You may resume your regular diet. If any symptoms of nausea, 
burping, or not passing a bowel movement in 2 days after 
discharge then resume liquid diet and take stool 
softeners/laxative until return of bowel function.
-DO NOT lift anything heavier than 5 pounds or engage in 
strenuous activity for 6 weeks following surgery. 
-Keep arm straight in splint and elevated for 1 more day and 
then you may remove splint.  You should elevate your right arm 
as much as possible until follow up visit. 
.
 Medications:  
-Take aspirin 121.5 daily (1.5 baby aspirins) for 1 month after 
surgery. 
-Resume your regular medications unless instructed otherwise and 
take any new meds as ordered . 
- You may take your prescribed pain medication for moderate to 
severe pain. You may switch to Tylenol or Extra Strength Tylenol 
for mild pain as directed on the packaging. 
-Take prescription pain medications for pain not relieved by 
tylenol. 
- Take Colace, 100 mg by mouth 2 times per day, while taking the 
prescription pain medication. You may use a different 
over-the-counter stool softener if you wish. 
- Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber. .
.
 Call the office IMMEDIATELY if you have any of the following: 
1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s). 2. A large amount of bleeding 
from the incision(s) or drain(s). 3. Fever greater than 101.5 oF 
4. Severe pain NOT relieved by your medication. . 
.
Return to the ER if: 
* If you are vomiting and cannot keep in fluids or your 
medications. 
 * If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you. 
* Any serious change in your symptoms, or any new symptoms that 
concern you. 
.
****Please call ___ to schedule your Lymphedema 
Treatment Clinic ___ Our lymphedema therapists 
would like to see you 4 weeks after your operation and then at 3 
months after your ___ They will formally follow 
you every 3 months for ___ years. 
 
Followup Instructions:
___